US07253198B2
To a solution of N-((1S,2R)-3-amino-1-benzyl-2-hydroxy-propyl)-3-(2-oxo-pyrrolidin-1-yl)-5-pentyloxy-benzamide (E182) (30 mg, 0.066 mmol, 1 equiv) in (CH2Cl)2 (5 ml) were added sodium triacetoxyborohydride (20 mg, 0.094 mmol, 1.4 equiv), 4-heptanone (10 μl, 0.070 mmol, 1.1 equiv) and CH3COOH (4 μl, 0.070 mmol, 1,1 equiv). The resulting mixture was stirred at room temperature for 92 hours, diluted with CH2Cl2, washed with saturated aqueous NaHCO3 solution, dried over MgSO4 and concentrated in vacuo. Purification of the residue by flash chromatography on silica gel (iso-hexane/ethyl acetate: 3/2) gave N-[(1S,2R)-1-benzyl-2-hydroxy-3-(1-propyl-butylamino)-propyl]-3-(2-oxo-pyrrolidin-1-yl)-5-pentyloxy-benzamide (4.2 mg, 11%) as a colourless oil. [M+H]+=552.2, RT=2.98 min

reactant | N-((1S,2R)-3-amino-1-benzyl-2-hydroxy-propyl)-3-(2-oxo-pyrrolidin-1-yl)-5-pentyloxy-benzamide | 0.066 mmol, 30 mg, 1 equiv | NC[C@H]([C@H](CC1=CC=CC=C1)NC(C1=CC(=CC(=C1)OCCCCC)N1C(CCC1)=O)=O)O | C26H35N3O4
reactant | sodium triacetoxyborohydride | 0.094 mmol, 20 mg, 1.4 equiv | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-heptanone | 0.070 mmol, 10 μl, 1.1 equiv | CCCC(CCC)=O | C7H14O
reactant | CH3COOH | 0.070 mmol, 4 μl, 1,1 equiv | CC(=O)O | C2H4O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-[(1S,2R)-1-benzyl-2-hydroxy-3-(1-propyl-butylamino)-propyl]-3-(2-oxo-pyrrolidin-1-yl)-5-pentyloxy-benzamide | 4.2 mg, 11% | C(C1=CC=CC=C1)[C@@H]([C@@H](CNC(CCC)CCC)O)NC(C1=CC(=CC(=C1)OCCCCC)N1C(CCC1)=O)=O | C33H49N3O4
